US05753665
A mixture of 2-chloro-4-fluorophenol (0.65 g) and sodium hydride (210 mg) in dry 1,2-dimethoxyethane (15 ml) was stirred at room temperature for 30 minutes. A solution of 7-(1-bromoethyl)-1,2,4-triazolo[1,5-a]pyrimidine (1 g, prepared in a similar manner to that described in Example 6) in 1,2-dimethoxyethane (35 ml) was added dropwise to the stirred mixture. The mixture was stirred at room temperature for 21 hours, then was filtered and the solvent was evaporated from the filtrate under reduced pressure. The residue was dissolved in dichloromethane, washed with a 5% aqueous solution of sodium hydroxide followed by water, dried over anhydrous magnesium sulphate and the solvent was evaporated under reduced pressure. The solid residue was purified by flash chromatography on silica gel using as eluent a mixture of ethyl acetate and petroleum ether (in the ratio 1:1), followed by recrystallisation from a mixture of ethyl acetate and hexane, to give 7-[1-(2-chloro-4-fluorophenoxy)ethyl]-1,2,4-triazolo[1,5-a]pyrimidine. Yield 0.99 g, (m.p. 89°-91° C.).

reactant | 2-chloro-4-fluorophenol | 0.65 g | ClC1=C(C=CC(=C1)F)O | C6H4ClFO
reactant | sodium hydride | 210 mg | [H-].[Na+]
reactant | 7-(1-bromoethyl)-1,2,4-triazolo[1,5-a]pyrimidine | BrC(C)C1=CC=NC=2N1N=CN2 | C7H7BrN4
solvent | 1,2-dimethoxyethane | 15 ml | COCCOC | C4H10O2
solvent | 1,2-dimethoxyethane | 35 ml | COCCOC | C4H10O2
product | 7-[1-(2-chloro-4-fluorophenoxy)ethyl]-1,2,4-triazolo[1,5-a]pyrimidine | ClC1=C(OC(C)C2=CC=NC=3N2N=CN3)C=CC(=C1)F | C13H10ClFN4O
